US05753679
0.75 g (0.00741 mol) of 4-hydroxy-piperidine were dissolved in 40 ml of dimethylformamide and cooled to 0°. 3.0 g (0.00926 mol) of 2-nitro-benzyl bromide and 2.87 ml (0.0204 mol) of triethylamine were added under argon and the mixture was left to come to room temperature. It was stirred for 16 hrs., the solvent was distilled off and the residue was taken up in dichloromethane. The organic phase was washed with water and saturated sodium chloride solution, dried over magnesium sulfate and concentrated and the residue was chromatographed on silica gel with dichloromethane/methanol (9:1) as the eluent. 1.22 g (56%) of 1-(2-nitro-benzyl)-piperidin-4-ol were obtained as a yellow oil. MS: me/e=237 (C12H17N2O3+).

reactant | 4-hydroxy-piperidine | 0.00741 mol, 0.75 g | OC1CCNCC1 | C5H11NO
reactant | 2-nitro-benzyl bromide | 0.00926 mol, 3.0 g | [N+](=O)([O-])C1=C(CBr)C=CC=C1 | C7H6BrNO2
reactant | triethylamine | 0.0204 mol, 2.87 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-(2-nitro-benzyl)-piperidin-4-ol | 1.22 g, 56% | [N+](=O)([O-])C1=C(CN2CCC(CC2)O)C=CC=C1 | C12H16N2O3
